US07091199B1
Preparation of 3-(3-methoxyphenyl)thieno[2,3-d]isoxazole (Scheme I, Compound 6)
Reflux a mixture of (3-bromothiophen-2-yl)-(3-methoxyphenyl)methanone oxime (10 g, 0.032 mol), KOH (3.6 g, 0.064 mol dissolved in 10 mL water) and 2-ethoxyethanol (40 mL) under nitrogen for one hour at 105–110° C. Add copper chloride (0.16 g, 0.0016 mol) whereupon the reaction mixture becomes dark brown in color. Heat the reacton for an additional four hours. TLC shows that the reaction is complete. Add water and extract the organics into ether. Wash the ether phase with water, dry (MgSO4), filter and concentrate to yield an oil. Purify the oil by column (alumina) chromatography, and elute with 15% ether in hexane to obtain white crystals. Recrystallize the crystals from ether:hexane to yield the title compound (5 g, 68% Yield), m.p. 51–52° C.

reactant | (3-bromothiophen-2-yl)-(3-methoxyphenyl)methanone oxime | 0.032 mol, 10 g | BrC1=C(SC=C1)C(=NO)C1=CC(=CC=C1)OC | C12H10BrNO2S
reactant | KOH | 0.064 mol, 10 mL, 3.6 g | [OH-].[K+]
reactant | 2-ethoxyethanol | 40 mL | C(C)OCCO | C4H10O2
catalyst | copper chloride | 0.0016 mol, 0.16 g | [Cu](Cl)Cl
solvent | hexane | CCCCCC | C6H14
product | 3-(3-methoxyphenyl)thieno[2,3-d]isoxazole | 5 g, 68% Yield | COC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C12H9NO2S
